US07615642B2
2-tert-Butyl-N-methyl-N-phenyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (132 mg, 0.36 mmol), N-methylaniline (0.1 mL, 99 mg, 0.92 mmol) and DMAP (120 mg, 0.98 mmol) in MeCN (5 mL). The crude product was purified by MPLC using Hex/EtOAc (4:1) on silica gel to give 59 mg (38% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.42-1.60 (m, 4 H), 1.63 (s, 9 H), 2.24-2.43 (m, 1 H), 3.19 (s, 3 H), 3.28-3.41 (m, 2 H), 3.92 (m, 2 H), 4.48 (d, J=7.42 Hz, 2 H), 7.03-7.12 (m, 2 H), 7.20-7.35 (m, 3 H), 7.60 (dd, J=8.79, 1.76 Hz, 1 H), 7.82 (d, J=1.17 Hz, 1 H), 7.94 (d, J=8.79 Hz, 1 H); MS (ESI) (M+H)+=442.0; Anal. Calcd for C24H31N3O3S+1.00 TFA+0.20 EtOAc+0.10H2O (575.04): C, 55.98; H, 5.92; N, 7.31. Found: C, 55.89; H, 5.87; N, 7.30.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.36 mmol, 132 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | N-methylaniline | 0.92 mmol, 0.1 mL, 99 mg | CNC1=CC=CC=C1 | C7H9N
catalyst | DMAP | 0.98 mmol, 120 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 2-tert-Butyl-N-methyl-N-phenyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N(C2=CC=CC=C2)C | C24H31N3O3S
